US04806549
o-Anisidine (57 ml, 0.5 mol) and ethyl propiolate (51 ml, 0.5 mol) were heated together under reflux in ethanol (200 ml) for 3 hours. The solvent was evaporated to afford ethyl 3-(2-methoxyphenylamino)acrylate as a yellow oil (55 g, 100%).

reactant | o-Anisidine | 0.5 mol, 57 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | ethyl propiolate | 0.5 mol, 51 ml | C(C#C)(=O)OCC | C5H6O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 3-(2-methoxyphenylamino)acrylate | 55 g, 100% | COC1=C(C=CC=C1)NC=CC(=O)OCC | C12H15NO3
